US09126969B2
A solution of 190 mg of 3-[3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]-1,1-dipropylurea in solution in 3.5 mL of a 4N solution of hydrochloric acid in dioxane is stirred at 22° C. for 4 hours. A solid precipitates. The solid is filtered off and washed with dioxane and with isopropyl ether. The solid becomes pasty. Filtrate and precipitate are grouped together with methanol and the mixture is concentrated. The reaction crude is dissolved in a 2N aqueous solution of NaOH, and a sticky paste forms, which does not dissolve. It is recovered with methanol and the product is concentrated. The concentrate is dissolved in 10 mL of water and extracted with 2 times 10 mL and 2 times 15 mL of ethyl acetate. The organic phases are dried over MgSO4, filtered and concentrated under vacuum in a rotary evaporator. The precipitate obtained is purified by preparative HPLC with, as eluent, a gradient of water/acetonitrile containing respectively 0.07% of trifluoroacetic acid. 65 mg of 3-{3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-1,1-dipropylurea are obtained in the form of a yellow solid. 1H NMR (400 MHz, DMSO-d6, δ in ppm): 0.89 (t, J=7.5 Hz, 6H); 1.57 (m, 4H); 2.89 (s, 3H); 3.03 (m, 2H); 3.23 (m partially masked, 2H); 3.29 (m, 4H); 3.57 (m, 2H); 3.87 (m, 2H); 7.13 (d, J=2.0 Hz, 1H); 7.24 (broad d, J=9.0 Hz, 1H); 7.59 (d, J=9.0 Hz, 1H); 7.98 (s, 1H).

reactant | 3-[3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]-1,1-dipropylurea | 190 mg | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NN(C=C2NC(N(CCC)CCC)=O)C2OCCCC2)C1 | C27H40N8O2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | NaOH | [OH-].[Na+]
product | 3-{3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-1,1-dipropylurea | 65 mg | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NNC=C2NC(N(CCC)CCC)=O)C1 | C22H32N8O
